US09334286B2
Preparation 60: 1-((4-(7-Bromo-1,6-naphthyridin-2-yl)-1H-pyrazol-1-yl)methyl)cyclobutanol
The title compound was prepared according to the method described for Preparation 58 using 7-Bromo-2-chloro-1,6-naphthyridine (Preparation 61) and 1-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)cyclobutanol (Preparation 131).

reactant | 7-Bromo-2-chloro-1,6-naphthyridine | BrC1=NC=C2C=CC(=NC2=C1)Cl | C8H4BrClN2
reactant | 1-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)methyl)cyclobutanol | CC1(OB(OC1(C)C)C=1C=NN(C1)CC1(CCC1)O)C | C14H23BN2O3
product | 1-((4-(7-Bromo-1,6-naphthyridin-2-yl)-1H-pyrazol-1-yl)methyl)cyclobutanol | BrC1=NC=C2C=CC(=NC2=C1)C=1C=NN(C1)CC1(CCC1)O | C16H15BrN4O
